* xfmr_4pin.lib
.subckt XFMR_4PIN 1 2 3 4 params: L1_VALUE=1m L2_VALUE=1m K_COUPLING=1
Lpri 1 2 {L1_VALUE}
Lsec 3 4 {L2_VALUE}
K1 Lpri Lsec {K_COUPLING}
.ends XFMR_4PIN
